US07902367B2
Step 67c) Methyl 2-[3-[N-[(4′-chlorobiphenyl-4-yl)methyl]carbamoyl]piperidin-1-yl]benzoate
Using 1-[2-(methoxycarbonyl)phenyl]nipecotic acid (77.5 mg, 0.294 mmol) and (4′-chlorobiphenyl-4-yl)methylamine hydrochloride (72.2 mg, 0.284 mmol), the same procedure was followed as in Step 3a of Example 3 to give 114 mg (87%) of the desired compound as a colorless amorphous product.

reactant | 1-[2-(methoxycarbonyl)phenyl]nipecotic acid | 0.294 mmol, 77.5 mg | COC(=O)C1=C(C=CC=C1)N1CC(C(=O)O)CCC1 | C14H17NO4
reactant | (4′-chlorobiphenyl-4-yl)methylamine hydrochloride | 0.284 mmol, 72.2 mg | Cl.ClC1=CC=C(C=C1)C1=CC=C(C=C1)CN
product | Methyl 2-[3-[N-[(4′-chlorobiphenyl-4-yl)methyl]carbamoyl]piperidin-1-yl]benzoate | 114 mg, 87% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(=O)C1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C27H27ClN2O3
